US06169091A
7-Methyl-4-(4-phenoxyanilino)thieno[3,2-d]pyrimidine hydrochloride
4-Chloro-7-methylthieno[3,2-d]pyrimidine (commercially available from Maybridge Chemical Co. Ltd.) (0.185 g, 1.00 mmol) and 4-phenoxyaniline (0.210 g, 1.1 mmol) were reacted in 2-propanol (5 ml) for 2 hours according to Procedure A. The product was obtained as a yellow solid (0.294 g, 80%), m.p. 243-245° C.; (Found: C, 61.46; H, 4.27, N, 11.32. C19H15N3OS.HCl requires: C, 61.70; H, 4.36; N, 11.36%); δH [2H6]-DMSO 10.85 (1H, br s, NH), 8.78 (1H, s, 2-H), 8.05 (1H, 2, 6-H), 7.69 (2H, d, J 9, 2′-H, 6′-H), 7.42 (2H, t, J 9, 3″-H, 5″-H), 7.00-7.20 (5H, m, 3′-H, 5′-H, 2″-H, 4″-H, 6″-H), 2.43 (3H, s, 7-CH3); m/z (%) 333 (M+).

reactant | 4-Chloro-7-methylthieno[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C(=CS2)C | C7H5ClN2S
reactant | 4-phenoxyaniline | 1.1 mmol, 0.210 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | 7-Methyl-4-(4-phenoxyanilino)thieno[3,2-d]pyrimidine hydrochloride | 0.294 g, 80% | Cl.CC1=CSC2=C1N=CN=C2NC2=CC=C(C=C2)OC2=CC=CC=C2 | InChI=1S/C19H15N3OS.ClH/c1-13-11-24-18-17(13)20-12-21-19(18)22-14-7-9-16(10-8-14)23-15-5-3-2-4-6-15;/h2-12H,1H3,(H,20,21,22);1H
